US07723367B2
2-trifluoromethylnicotinonitrile
To an oven-dried, N2-purged, 100-mL, round-bottomed flask containing a magnetic stir bar were added copper(I) iodide (1.26 g, 6.6 mmol) and potassium fluoride (383 mg, 6.6 mmol). The flask was heated to 120° C. for 1 hour under vacuum. After cooling to room temperature, 2-iodonicotinonitrile (1.38 g, 6.00 mmol) was added followed by the addition via syringe of anhydrous dimethylformamide (6 mL) and anhydrous N-methylpyrrolidinone (6 mL). A solution of (trifluoromethyl)trimethylsilane (12 mL of 0.5 M, 6.00 mmol) in tetrahydrofuran was added via syringe and the reaction mixture was stirred at room temperature overnight. Water (20 mL) was added. The mixture was transferred to a separatory funnel and extracted with ether (3×30 mL). The combined organic extracts were washed with ammonium hydroxide (30 mL), 1N hydrochloric acid (30 mL), and saturated sodium bicarbonate (30 mL). The ether solution was dried over magnesium sulfate and concentrated by rotary evaporator. The product was purified by flash chromatography (silica gel: 35% ethyl acetate, 65% hexanes, product Rf˜0.3) to give 800 mg (77%) of the title compound as a white powder. 1H NMR (CDCl3) δ 7.69 (dd, J=8.0, 4.9 Hz, 1H), 8.21 (dd, J=8.0, 1.5 HZ, 1H), 8.92 (dd, J=4.7, 9.4 Hz, 1H).

reactant | potassium fluoride | 6.6 mmol, 383 mg | [F-].[K+]
reactant | 2-iodonicotinonitrile | 6.00 mmol, 1.38 g | IC1=C(C#N)C=CC=N1 | C6H3IN2
reactant | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
reactant | (trifluoromethyl)trimethylsilane | 6.00 mmol, 0.5 M, 12 mL | FC(F)(F)[Si](C)(C)C | C4H9F3Si
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 6.6 mmol, 1.26 g | [Cu]I
solvent | Water | 20 mL | O | H2O
solvent | N-methylpyrrolidinone | 6 mL | CN1C(CCC1)=O | C5H9NO
product | 2-trifluoromethylnicotinonitrile | 800 mg, 77% | FC(C1=C(C#N)C=CC=N1)(F)F | C7H3F3N2
